US06069157
5-Amino-3-cyano-4-(2,5-dichlorofuran-3-yl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a solution of 5-amino-4-(2-chlorofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.15 g) in tetrahydrofuran (7 ml) was added N-chlorosuccinimide (0.048 g). The mixture was left at room temperature for 24 hours and then heated at 50° C. for 3 hours and then left at room temperature for 96 hours. The reaction mixture was poured into ether (25 ml) and water (25 ml). The organic layer was washed with water (25 ml), then dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (10 g) eluted with hexane:dichloromethane (50:50). Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 193-194° C.

reactant | 5-amino-4-(2-chlorofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.15 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(OC=C1)Cl | C15H6Cl3F3N4O
reactant | N-chlorosuccinimide | 0.048 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 5-Amino-3-cyano-4-(2,5-dichlorofuran-3-yl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(OC(=C1)Cl)Cl | C15H5Cl4F3N4O
